US06066657
2-Dimethylsulfamyl-7-methoxybenzofuran-4-carboxylic Acid 4-nitrophenyl Ester
Prepared from 2-dimethylsulfamyl-7-methoxybenzofuran-4-carboxylic acid (0.5 g), 4-nitrophenol (270 mg), 4-dimethylaminopyridine (11 mg) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (370 mg) in dichloromethane (30 ml). Trituration from ethyl acetate and hexane afforded the desired product as a cream solid (0.61 g).

reactant | 2-dimethylsulfamyl-7-methoxybenzofuran-4-carboxylic acid | 0.5 g | CN(S(=O)(=O)C=1OC=2C(C1)=C(C=CC2OC)C(=O)O)C | C12H13NO6S
reactant | 4-nitrophenol | 270 mg | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 370 mg | Cl.CN(CCCN=C=NCC)C
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | 4-dimethylaminopyridine | 11 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | 2-Dimethylsulfamyl-7-methoxybenzofuran-4-carboxylic Acid 4-nitrophenyl Ester | 0.61 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)C=1C=CC(=C2C1C=C(O2)S(N(C)C)(=O)=O)OC | C18H16N2O8S
